US08486937B2
A solution of thiocarbamate (12.2 mmol) in chloroform (10 mL) was added dropwise over a period of 40 min to a vigorously maintained mixture of ethyl 3-[(aminocarbonothioyl)amino]benzoate (5.78 mmol), glacial acetic acid (10 mL) and chloroform (10 mL). The mixture was maintained 30 min at rt and then was heated at 70° C. for 4 h. The mixture was allowed to cool to room temperature and maintained for an additional 13 h. The volatiles were removed under reduced pressure and the solid residue was suspended in a mixture of chloroform (10 mL) and acetone (10 mL). The product was isolated by filtration, washed successively with acetone (5 mL) and hexanes (10 mL), and dried in a vacuum oven, thus providing the product in 95% yield as a mixture of ethyl 2-amino-1,3-benzothiazole-7-carboxylate hydrobromide and ethyl 2-amino-1,3-benzothiazole-5-carboxylate hydrobromide in a ratio of 95/5, respectively. This product was partitioned between saturated aqueous solution of sodium bicarbonate (25 mL) and a mixture of ethyl acetate (70 mL) and tetrahydrofuran (30 mL). The organic layer was separated, dried over anhydrous sodium sulfate and concentrated. The residue was crystallized form ethyl acetate, thus providing pure ethyl 2-amino-1,3-benzothiazole-7-carboxylate. 1H NMR (500 MHz, Me2SO-d6) δ 1.35 (t, J=7.5, 3H), 4.36 (q, J=7, 2H), 7.35 (t, J=7.5, 1H), 7.57 (d, J=7, 1H), 7.61 (bs, 2H), 7.65 (d, J=8, 1H); MS (EI) m/z 223 (M++1).

reactant | thiocarbamate | 12.2 mmol | C(N)([O-])=S
reactant | ethyl 3-[(aminocarbonothioyl)amino]benzoate | 5.78 mmol | NC(=S)NC=1C=C(C(=O)OCC)C=CC1 | C10H12N2O2S
reactant | ethyl 2-amino-1,3-benzothiazole-7-carboxylate hydrobromide | Br.NC=1SC2=C(N1)C=CC=C2C(=O)OCC
reactant | ethyl 2-amino-1,3-benzothiazole-5-carboxylate hydrobromide | Br.NC=1SC2=C(N1)C=C(C=C2)C(=O)OCC
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | ethyl 2-amino-1,3-benzothiazole-7-carboxylate | 95% yield | NC=1SC2=C(N1)C=CC=C2C(=O)OCC | C10H10N2O2S
